US05709911
First, 4.24 g of trans-4-(2,3-difluorophenyl)cyclohexanol, 2 g of triethylamine, and 60 ml of tetrahydrofuran were placed in a 100 ml flask. Then, 2.3 g of acryloyl chloride was added dropwise to the mixture under ice water cooling. The mixture was stirred at the same temperature for 3 hours. Water was added to the reaction mixture, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: benzene/hexane=1/1) and recrystallized from hexane to obtain 2.8 g of trans-4-(2,3-difluorophenyl)cyclohexyl acrylate (Y: 52.6%). The compound thus obtained had a purity of 99.9% by GC and 99.5% by HPLC. Furthermore, the compound had an m.p. of 72.9° C. to 73.6° C.

reactant | trans-4-(2,3-difluorophenyl)cyclohexanol | 4.24 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](CC1)O | C12H14F2O
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | acryloyl chloride | 2.3 g | C(C=C)(=O)Cl | C3H3ClO
solvent | Water | O | H2O
product | trans-4-(2,3-difluorophenyl)cyclohexyl acrylate | 2.8 g, 52.6% | C(C=C)(=O)O[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C15H16F2O2
